US05972937
5-Thiocyanato-6-trifluoromethylindoline (D17)
A mixture of 6-trifluoromethylindoline (D 16) (9.7 g, 52 mmol) and potassium thiocyanate (10.09 g, 104 mmol) in methanol (200 ml) was treated with a solution of bromine (2.82 ml, 55 mmol) in methanol (35 ml) dropwise over 0.5 h at -5-0° C. The reaction mixture was allowed to warm to room temperature and stirred overnight then evaporated to dryness. The residue was partitioned between aqueous K2CO3 (100 ml) and dichloromethane (3×100 ml). The combined extracts were dried (Na2SO4) and evaporated and the residue chromatographed on silica using 2-30% ethyl acetate/petroleum ether as eluant to afford the title compound (9.1 g, 72%) as a yellow solid.

reactant | 6-trifluoromethylindoline | 52 mmol, 9.7 g | FC(C1=CC=C2CCNC2=C1)(F)F | C9H8F3N
reactant | potassium thiocyanate | 104 mmol, 10.09 g | [S-]C#N.[K+]
reactant | bromine | 55 mmol, 2.82 ml | BrBr | Br2
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 35 ml | CO | CH4O
product | 5-Thiocyanato-6-trifluoromethylindoline | 9.1 g, 72% | S(C#N)C=1C=C2CCNC2=CC1C(F)(F)F | C10H7F3N2S
